US08802678B2
In a 1 L reactor are successively introduced: 50 g (362 mmol) of 4-(2-hydroxyethyl)phenol, 5 g (13.6 mmol) of sodium tetraborate decahydrate, 500 mL of isopropanol, 5 g of palladium (10% on charcoal washed with isopropanol). The vessel is closed, purged three times with nitrogen and three times with hydrogen. The mixture is stirred for 22 hours under 10 bar pressure of hydrogen at 80° C., cooled back to room temperature, filtered over a celite pad and rinsed with isopropanol. Filtrate is concentrated under reduced pressure, toluene (100 mL) is added and evaporated under reduced pressure. This last procedure being repetited to remove trace amount of isopropanol and gives 52 g (99% yield) of 4-(2-hydroxyethyl)cyclohexanol as a clear viscous oil.

reactant | 4-(2-hydroxyethyl)phenol | 362 mmol, 50 g | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | sodium tetraborate decahydrate | 13.6 mmol, 5 g | O.O.O.O.O.O.O.O.O.O.B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
catalyst | palladium | 5 g | [Pd] | Pd
solvent | isopropanol | 500 mL | C(C)(C)O | C3H8O
product | 4-(2-hydroxyethyl)cyclohexanol | 52 g, 99% yield | OCCC1CCC(CC1)O | C8H16O2
